US07977344B2
2-[(2-Methyl butyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine
To a solution of 8-bromo-2-[(2-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (284 mg) in dry MeOH (2.54 mL) was added sodium methoxide solution (0.416 mL, 30% wt. MeOH) and the mixture was stirred at reflux for 1 h. The reaction was allowed to cool and was concentrated in vacuo. The resulting residue was dissolved in EtOAc (15 mL) and was poured into saturated ammonium chloride solution (15 mL). The organics were separated, dried over MgSO4, filtered and concentrated in vacuo to give the title compound as an orange foam (199 mg).

reactant | 8-bromo-2-[(2-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 284 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCC(CC)C)C1OCCCC1 | C15H22BrN5O2
reactant | sodium methoxide | 0.416 mL | C[O-].[Na+]
solvent | MeOH | 2.54 mL | CO | CH4O
product | 2-[(2-Methyl butyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-2-yl)-9H-Purin-6-amine | 199 mg | CC(COC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N)CC | C16H25N5O3
